US09428509B2
2-Chloro-5-(pyridin-4-yl)-4-((tetrahydro-2H-pyran-4-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine
To a solution of 2-chloro-5-iodo-4-((tetrahydro-2H-pyran-4-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine (1 equiv), pyridin-4-ylboronic acid (1.1 equiv), tetrakis(triphenylphosphine)-palladium(0) (0.1 equiv) in a 5:1 mixture of 1,4-dioxane and water (0.17 M) was added sodium carbonate (2.1 equiv). The reaction was stirred at 75° C. for 3 h. The reaction mixture was quenched with saturated aqueous sodium chloride and then washed with ethyl acetate. The organic phase was combined and washed with saturated aqueous sodium chloride. The organic layer was dried (magnesium sulfate), filtered, and concentrated. The crude product was purified by silica gel column chromatography (0-90%) ethyl acetate (with 10% 1N ammonia in MeOH) in hexane) to give the title compound (50.5% yield) as a yellow oil. 1H NMR (400 MHz, DMSO-d6) δ ppm −0.06 (s, 9H) 0.82-0.91 (m, 2H) 1.74 (dtd, J=12.74, 8.37, 8.37, 3.71 Hz, 2H) 2.01-2.16 (m, 2H) 3.50-3.63 (m, 4H) 3.69-3.83 (m, 2H) 5.50 (tt, J=7.91, 3.81 Hz, 1H) 5.59 (s, 2H) 7.72 (d, J=6.25 Hz, 2H) 8.12 (s, 1H) 8.60 (d, J=6.25 Hz, 2H); MS (ESI) m/z 461.0 [M+1]+.

reactant | 2-chloro-5-iodo-4-((tetrahydro-2H-pyran-4-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2I)COCC[Si](C)(C)C)OC2CCOCC2 | C17H25ClIN3O3Si
reactant | pyridin-4-ylboronic acid | 1.1 equiv | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
reactant | sodium carbonate | 2.1 equiv | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.1 equiv | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 0.17 M | O | H2O
product | 2-Chloro-5-(pyridin-4-yl)-4-((tetrahydro-2H-pyran-4-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 50.5% yield | ClC=1N=C(C2=C(N1)N(C=C2C2=CC=NC=C2)COCC[Si](C)(C)C)OC2CCOCC2 | C22H29ClN4O3Si
